US08076516B2
Sonogashira coupling of 2-(2-(3-bromobenzyloxy)ethyl)isoindoline-1,3-dione and 4-ethynylheptan-4-ol following the method described in Example 12 gives 2-(2-(3-(3-hydroxy-3-propylhex-1-ynyl)benzyloxy)ethyl)isoindoline-1,3-dione.

reactant | 2-(2-(3-bromobenzyloxy)ethyl)isoindoline-1,3-dione | BrC=1C=C(COCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C17H14BrNO3
reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
product | 2-(2-(3-(3-hydroxy-3-propylhex-1-ynyl)benzyloxy)ethyl)isoindoline-1,3-dione | OC(C#CC=1C=C(COCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1)(CCC)CCC | C26H29NO4
